US04840959
Synthesis of 2-chloro-N-(1-chloro-3-methylindan-4-yl)-pyridine-3-carboxamide
To a solution of 1 g (5.5 mmol) of 4-amino-1-chloro-3-methylindane and 0.7 g (6.9 mmol) of triethylamine in 15 ml of tetrahydrofuran was added 1.1 g (6.2 mmol) of 2-chloronicotinic acid chloride under ice cooling, and the mixture was stirred at room temperature for one hour. The reaction mixture was poured into ice water and extracted with ethyl acetate. The extract was washed with water, dried over Glauber's salt and then concentrated under reduced pressure. The residue was separated and purified by silica gel chromatography (eluent: n-hexane/ethyl acetate=2/1) to obtain 1.3 g of white crystals (Compound No. 6 shown in Table 2) in a yield of 75%.

reactant | 4-amino-1-chloro-3-methylindane | 5.5 mmol, 1 g | NC1=C2C(CC(C2=CC=C1)Cl)C | C10H12ClN
reactant | triethylamine | 6.9 mmol, 0.7 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloronicotinic acid chloride | 6.2 mmol, 1.1 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-chloro-N-(1-chloro-3-methylindan-4-yl)-pyridine-3-carboxamide | 1.3 g, yield of 75% | ClC1=NC=CC=C1C(=O)NC1=C2C(CC(C2=CC=C1)Cl)C | C16H14Cl2N2O
